US09259426B2
Synthesis of 4-(N-isopentylamino)-6-(4-fluorophenyl)-quinazoline
This compound was synthesized from 4-chloro-6-(4-fluorophenyl)-quinazoline and isopentylamine in 75% yield using the procedure described for example 37, and was characterized by its mass spectrum as follows: MS (m/z): 310 ([M+H]+, 100).

reactant | 4-chloro-6-(4-fluorophenyl)-quinazoline | ClC1=NC=NC2=CC=C(C=C12)C1=CC=C(C=C1)F | C14H8ClFN2
reactant | isopentylamine | C(CC(C)C)N | C5H13N
product | 4-(N-isopentylamino)-6-(4-fluorophenyl)-quinazoline | 75% yield | C(CC(C)C)NC1=NC=NC2=CC=C(C=C12)C1=CC=C(C=C1)F | C19H20FN3
